US06821972B2
N′-Hydroxy-1-methyl-1H-imidazole-2-carboximidamide
1-Methyl-2-cyanoimidazole (0.85 g, 8.0 mmol) (J. Chem. Soc. Perkin Trans. I 1994, 239) was dissolved in methanol (20 mL), then hydroxylamine hydrochloride (0.66 g, 9.6 mmol) and triethylamine (1.3 mL, 9.6 mmol) were added and the mixture was stirred at room temperature for 1 hour. The mixture was chilled in an ice-bath, then the solid was collected by filtration, washed with methanol and dried to give the title compound as a white crystalline solid which was contaminated with triethylamine hydrochloride (0.90 g).

reactant | 1-Methyl-2-cyanoimidazole | 8.0 mmol, 0.85 g | CN1C(=NC=C1)C#N | C5H5N3
reactant | hydroxylamine hydrochloride | 9.6 mmol, 0.66 g | Cl.NO
reactant | triethylamine | 9.6 mmol, 1.3 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 20 mL | CO | CH4O
product | N′-Hydroxy-1-methyl-1H-imidazole-2-carboximidamide | ON=C(N)C=1N(C=CN1)C | C5H8N4O
